US04243406
Hydroxylamine hydrochloride (1.1 g.; 0.016 mol.) was added to a mixture of ethyl-2-benzoyl-3-dimethylaminopropenoate (3.71 g.; 0.015 mol.) and anhydrous sodium acetate (1.25 g.; 0.015 mol.) in 50 ml. of ether and 25 ml. of methanol at 25° C. After 16 hours, the solvent was removed by evaporation and the residue was extracted with five 50 ml. portions of ether. The ether extracts were combined, washed with water, dried, filtered, then concentrated to yield an oil which was further purified by evaporative distillation at 60° C. and 0.55 torr. to yield ethyl-5-phenyl-4-isoxazolecarboxylate (1.03 g.; 32% yield) as a colorless liquid having the following analysis:

reactant | Hydroxylamine hydrochloride | 0.016 mol, 1.1 g | Cl.NO
reactant | ethyl-2-benzoyl-3-dimethylaminopropenoate | 0.015 mol, 3.71 g | C(C)OC(C(=CN(C)C)C(C1=CC=CC=C1)=O)=O | C14H17NO3
reactant | sodium acetate | 0.015 mol, 1.25 g | C(C)(=O)[O-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | ethyl-5-phenyl-4-isoxazolecarboxylate | 1.03 g, 32% yield | C(C)OC(=O)C=1C=NOC1C1=CC=CC=C1 | C12H11NO3
